US04939137
4-[2-[4-(4-Fluorobenzoyl)piperidin-1-yl]ethyl]-3,4,5,7,8,9-hexahydrothieno[4,3,2-de]pyrido[1,2-c]pyrimidine-3,5,9-trione
The title compound was prepared by starting with 3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione. This material (9.0 g, 22.4 mmol) was reacted with methyl acrylate as described in Example 1 to produce 6.54 g (59.8%) of methyl 3-[3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate as an orange oil after chromatography. A portion of this material was crystallized from CH2Cl2 /hexane to afford a peach-colored solid, mp 122°-123° C.

reactant | 3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC=3C(C2=O)=CSC3)=O)C=C1 | C20H20FN3O3S
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | methyl 3-[3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate | 6.54 g, 59.8% | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(N(C=3C(C2=O)=CSC3)CCC(=O)OC)=O)C=C1 | C24H26FN3O5S
